US08183240B2
4-cyano-3-(2,4-dichlorophenyl)-5-(methylsulfonyl)thiophene-2-carboxamide (0.026 g, 0.069 mmol) was dissolved in 2-hydroxymethylmorpholine (0.300 g, 2.56 mmol) and the solution was heated at 60° C. overnight. The residue was concentrated in vacuo and column chromatography was performed and yielded 4-cyano-3-(2,4-dichlorophenyl)-5-[2-(hydroxymethyl)morpholin-4-yl]thiophene-2-carboxamide (0.020 g, 66%) as a white solid. LCMS: (FA) ES+ 412. 1H NMR (400 MHz, d4-methanol) δ: 7.76 (s, 1H), 7.49 (d, 1H), 7.40 (d, 1H), 4.08-3.92 (m, 3H), 3.84-3.72 (m, 2H), 3.69-3.59 (m, 2H), 3.15-3.08 (m, 2H).

reactant | 4-cyano-3-(2,4-dichlorophenyl)-5-(methylsulfonyl)thiophene-2-carboxamide | 0.069 mmol, 0.026 g | C(#N)C=1C(=C(SC1S(=O)(=O)C)C(=O)N)C1=C(C=C(C=C1)Cl)Cl | C13H8Cl2N2O3S2
reactant | 2-hydroxymethylmorpholine | 2.56 mmol, 0.300 g | OCC1CNCCO1 | C5H11NO2
product | 4-cyano-3-(2,4-dichlorophenyl)-5-[2-(hydroxymethyl)morpholin-4-yl]thiophene-2-carboxamide | 0.020 g, 66% | C(#N)C=1C(=C(SC1N1CC(OCC1)CO)C(=O)N)C1=C(C=C(C=C1)Cl)Cl | C17H15Cl2N3O3S
